US05102792
European Patent Application No. 0 220 923, published May 6, 1987, corresponding to commonly assigned copending U.S. Patent application Ser. No. 789,595, filed Oct. 21, 1985, describes the use of SHMT obtained from a genetically engineered Escherichia coli strain transformed with the pGS29 plasmid for condensing benzaldehyde and glycine methyl ester to produce betaphenylserine methyl ester. The reaction conditions employed during the condensation reaction include a pH of from 6.5 to 9, a temperature of from 10 to 65° C., a benzaldehyde concentration of from 10 to 100 mM and a glycine ester from 10 to 150 mM. While at a betaphenylserine methyl ester yield of 1.48 g/l, this process produced a beta-phenylserine methyl ester product containing as much as 83% erythro isomer, it has been found that as the yield is increased the amount of threo isomer present in the product increases until at commercial rates of production substantial amounts of threo isomer are present.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
product | betaphenylserine methyl ester | COC([C@@H](N)C(O)C1=CC=CC=C1)=O | C10H13NO3
